US04209626
α-Formyl-3-methoxybenzeneacetonitrile
In the manner described in Example 46, the reaction of 3-methoxybenzeneacetonitrile with sodium methoxide and ethyl formate provides the product of the Example.

reactant | 3-methoxybenzeneacetonitrile | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | α-Formyl-3-methoxybenzeneacetonitrile | C(=O)C(C#N)C1=CC(=CC=C1)OC | C10H9NO2
